US07579474B2
1-SEC-BUTYL-4-[2-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]PIPERIDIN-4-OL
Preparation according to Example 2: 4-[2-fluoro-3-(trifluoromethyl)phenyl]piperidin-4-ol (0.02 g, 0.076 mmol), acetonitrile (2 ml), potassium carbonate (0.02 g, 0.14 mmol), 2-iodobutane (0.009 ml, 0.082 mmol). MS m/z (relative intensity, 70.eV) 319 (M+, 2), 290 (72), 191 (28), 177 (14), 56 (bp).

reactant | 4-[2-fluoro-3-(trifluoromethyl)phenyl]piperidin-4-ol | 0.076 mmol, 0.02 g | FC1=C(C=CC=C1C(F)(F)F)C1(CCNCC1)O | C12H13F4NO
reactant | potassium carbonate | 0.14 mmol, 0.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodobutane | 0.082 mmol, 0.009 ml | IC(C)CC | C4H9I
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1-SEC-BUTYL-4-[2-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]PIPERIDIN-4-OL | C(C)(CC)N1CCC(CC1)(O)C1=C(C(=CC=C1)C(F)(F)F)F | C16H21F4NO
